US04275066
2-[(1,1'-Biphenyl)-3-yl]-1,2,4-triazolo[5,1-a]isoquinoline
This compound was prepared according to the procedure of the foregoing Example, starting from 2-amino-isoquinoline-1(2H)-one and 3-phenyl-benzonitrile. Yield 49%. M.p. 167°-69° C. (from ethyl acetate).

reactant | 2-amino-isoquinoline-1(2H)-one | NN1C(C2=CC=CC=C2C=C1)=O | C9H8N2O
reactant | 3-phenyl-benzonitrile | C1(=CC=CC=C1)C=1C=C(C#N)C=CC1 | C13H9N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[(1,1'-Biphenyl)-3-yl]-1,2,4-triazolo[5,1-a]isoquinoline | Yield 49% | C1(=CC(=CC=C1)C1=NN2C(C3=CC=CC=C3C=C2)=N1)C1=CC=CC=C1 | C22H15N3
